US06699860B2
In a 500-mL round bottom flask, N-benzyl[(2R)-3,4-dihydro-2H-chromen-2-yl]methanamine hydrobromide (33.4 g, 0.1 mole, 1.0 eq.) was suspended in 240 mL of acetic acid. The suspension was cooled to 16° C., then bromine (16 g, 0.1 mole, 1.0 eq.) was added over 20 minutes, maintaining the reaction temperature between 15-16° C. After 60 minutes, an HPLC analysis indicated the reaction was complete. The reaction mixture was then stirred for 30 minutes at room temperature, and the product was collected by filtration. The light gray moist product was suspended in dichloromethane (200 mL) and to this suspension was added 0.5M NaHCO3 (350 mL). Foaming ensued and the suspension became a bi-phasic solution. The aqueous phase was separated (14.5 L; pH=8) and the organic phase was washed with 50 mL water. The phases were separated and the organic phase concentrated in vacuo at 45° C. to yield 31.6 g of N-benzyl-N-{[(2R)-6-bromo-3,4-dihydro-2H-chromen-2-yl]methyl}amine. NMR (DMSO-d6) δ1.56 (m, 1H), 2.02 (m, 1H), 2.25 (bs, 1H), 2.73 (m, 4H), 3.75 (s, 2H), 4.05 (m, 1H), 6.70 (d, J=8.8 Hz, 1H), 7.25-7.40 (m, 7H); MS (El): m/z 232 (MH+), 234 (M+2).

reactant | N-benzyl[(2R)-3,4-dihydro-2H-chromen-2-yl]methanamine hydrobromide | 0.1 mole, 33.4 g, 1.0 eq. | Br.C(C1=CC=CC=C1)NC[C@@H]1OC2=CC=CC=C2CC1
reactant | bromine | 0.1 mole, 16 g, 1.0 eq. | BrBr | Br2
solvent | acetic acid | 240 mL | C(C)(=O)O | C2H4O2
product | N-benzyl-N-{[(2R)-6-bromo-3,4-dihydro-2H-chromen-2-yl]methyl}amine | 31.6 g | C(C1=CC=CC=C1)NC[C@@H]1OC2=CC=C(C=C2CC1)Br | C17H18BrNO
